US06787543B2
Under nitrogen atmosphere, to a solution of (2S)-2-ethoxycarbonylpiperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester (9.35 g) was added portionwise lithium borohydride (1.82 g), and the reaction mixture was stirred for 90 minutes. After methanol (2.32 ml) was added dropwise to the solution under ice-cooling, the mixture was stirred at room temperature for 17 hours. 1N Hydrochloric acid (80 ml) was added dropwise under ice-cooling, and ethyl acetate (100 ml) and sodium chloride (6 g) was added to it. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated under reduced pressure to give colorless oil. The oil was purified by column chromatography on silica gel (90 g) using a mixed solvent of hexane and ethyl acetate (3:2). The fractions containing the objective compound were collected and evaporated under reduced pressure to give (2S)-2-(hydroxymethyl)piperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester (8.40 g) as a colorless oil.

reactant | (2S)-2-ethoxycarbonylpiperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester | 9.35 g | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC | C20H28N2O6
reactant | lithium borohydride | 1.82 g | [BH4-].[Li+]
reactant | Hydrochloric acid | 1N, 80 ml | Cl | ClH
reactant | sodium chloride | 6 g | [Cl-].[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2.32 ml | CO | CH4O
product | (2S)-2-(hydroxymethyl)piperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester | 8.40 g | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)CO | C18H26N2O5
